US03932429
To a solution of 0.231 g of 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane in 4 ml of pyridine is added 0.376 g of nicotinoyl chloride hydrochloride under icecooling. The solution is stirred at room temperature overnight. Then, the solution is concentrated under reduced pressure. The resudue thus obtained is washed with ether, and then recrystallized from a mixture of ethanol, acetone and ether. 0.17 g of 1-(3-nicotinoyloxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane dihydrochloride hemihydrate is obtained. M.p. 210° - 218°C.

reactant | 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane | 0.231 g | OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2 | C15H21NO
reactant | nicotinoyl chloride hydrochloride | 0.376 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-nicotinoyloxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane dihydrochloride hemihydrate | 0.17 g | O.Cl.Cl.C(C1=CN=CC=C1)(=O)OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2.C(C2=CN=CC=C2)(=O)OC=2C=C(C=CC2)C21CCCC(N(C2C)C)C1.Cl.Cl | InChI=1S/2C21H24N2O2.4ClH.H2O/c2*1-15-21(10-4-8-18(13-21)23(15)2)17-7-3-9-19(12-17)25-20(24)16-6-5-11-22-14-16;;;;;/h2*3,5-7,9,11-12,14-15,18H,4,8,10,13H2,1-2H3;4*1H;1H2
